US05908945
17β-Acetoxy-1α-ethylandrostan-3-one
3.31 g (10 mmol) of 17β-acetoxy-androst-1-en-3-one and 143 mg (1 mmol) of CuBr are introduced into 15 ml of dry THF. 5.79 ml (11 mmol) of a 1.9 molar solution of triethylaluminum in toluene as well as 2.16 g (20 mmol) of trimethylsilyl chloride are added at 0° C. It is stirred for 1 hour at room temperature, then hydrolyzed with 10 ml of 2N hydrochloric acid and the product is extracted with methyl tert-butyl ether. After evaporation of the solvent and recrystallization from acetone, 3.2 g of 17β-acetoxy-1α-ethylandrostan-3-one (90% of theory) of melting point 159° C. is obtained.

reactant | 17β-acetoxy-androst-1-en-3-one | 10 mmol, 3.31 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3CC(C=C[C@]3(C)[C@H]1CC2)=O | C21H30O3
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | triethylaluminum | C(C)[Al](CC)CC
reactant | trimethylsilyl chloride | 20 mmol, 2.16 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 17β-Acetoxy-1α-ethylandrostan-3-one | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3CC(C[C@@H]([C@]3(C)[C@H]1CC2)CC)=O | C23H36O3
